US04243678
6.3 g of ethyl 5-(indan-5-ylamino)valerate and 3.1 g of ethyl diisopropylamine are reacted in 50 ml of benzene with 4.2 g of p-chlorobenzoyl chloride. The resulting residue (left after filtering off the precipitate and concentrating the filtrate by evaporation) is saponified as described in Example 77b. Recrystallization of the crude product from ethyl acetate/petrol ether (1:2) yields 7.9 g (88.1% of theory) of 5-{p-chloro-[N-(indan-5-yl)]benzamido}valeric acid, MP 132° to 134°.

reactant | ethyl 5-(indan-5-ylamino)valerate | 6.3 g | C1CCC2=CC(=CC=C12)NCCCCC(=O)OCC | C16H23NO2
reactant | ethyl diisopropylamine | 3.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | p-chlorobenzoyl chloride | 4.2 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-{p-chloro-[N-(indan-5-yl)]benzamido}valeric acid | 7.9 g, 88.1% | ClC1=CC=C(C(=O)N(C=2C=C3CCCC3=CC2)CCCCC(=O)O)C=C1 | C21H22ClNO3
